US08877772B2
Preparation of 5-bromo-3-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (Intermediate CD)
5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (200 mg, 0.419 mmol), 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperazine (160 mg, 0.503 mmol) and dichlorobis(triphenylphosphine)palladium (II) (30 mg, 0.042 mmol) were combined in CH3CN (5 ml) and 1 M Na2CO3 (5 ml) and stirred at 60° C. for 2 hrs. EtOAc was added and the organic phase was washed with water, dried and evaporated. Purification by silica gel chromatography using 0-20% MeOH:DCM yielded 235 mg (104%) of the title compound. MS ESI (m/z): 539.0/541.2 (M+1)+, calc. 538/540.

reactant | 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.419 mmol, 200 mg | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10BrIN2O2S
reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-piperazine | 0.503 mmol, 160 mg | CN1CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H29BN2O2
reactant | Na2CO3 | 1 M, 5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 5 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.042 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-3-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 235 mg, 104% | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(C=C2)CN2CCN(CC2)C)S(=O)(=O)C2=CC=C(C=C2)C | C26H27BrN4O2S
